US07582626B2
c) cis-N-{3-[1-(5-Fluoro-pyridin-2-ylmethyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
A solution of cis-2-{(5-fluoro-pyridin-2-ylmethyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclopentane-carboxylic acid ethyl ester (0.085 g, 0.146 mmol) in ethanol (2 mL) was treated with a 21% w/w solution of sodium ethoxide in ethanol (0.218 mL) and stirred for 2 h at 60° C. Glacial acetic acid (0.200 mL) was added, the solvents were removed in vacuo, and the residue was purified by prep-HPLC [Column Luna 5μ C18 (2) 100 Å AXIA 50×21.2 mm, 5 micron, 30%-90% in 7 min @ 30 mL/min flow rate, 0.05% trifluoroacetic acid in acetonitrile/0.05% trifluoroacetic acid in water] to afford the desired product, cis-N-{3-[1-(5-fluoro-pyridin-2-ylmethyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (0.052 g, 0.097 mmol, 66.5%), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.47-1.69 (3H, m), 1.96-2.14 (3H, m), 3.06 (3H, s), 3.95-4.01 (1H, m), 4.61 (1H, bs), 4.96 (1H, d, J=16.5 Hz), 7.46-7.52 (2H, m), 7.56-7.58 (2H, m), 7.67-7.72 (1H, m), 8.51 (1H, d, J=3.5 Hz), 10.18 (1H, s). LC-MS (ESI) calcd for C22H22FN5O6S2 535.10, found 536.4 [M+H+].

reactant | cis-2-{(5-fluoro-pyridin-2-ylmethyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclopentane-carboxylic acid ethyl ester | 0.146 mmol, 0.085 g | C(C)OC(=O)[C@H]1[C@H](CCC1)N(C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)CC2=NC=C(C=C2)F | C24H28FN5O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | acetic acid | 0.200 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 0.218 mL | C(C)O | C2H6O
product | cis-N-{3-[1-(5-fluoro-pyridin-2-ylmethyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.097 mmol, 0.052 g, 66.5% | FC=1C=CC(=NC1)CN1C(C(=C([C@@H]2CCC[C@H]12)O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O | C22H22FN5O6S2
